US06358971B1
2-Amino-3-(2-fluoro-6-trifluoromethylphenyl)-6-benzoyl-imidazo[1,2-a]pyridine
The 2-trifluoroacetamido-3-(2-fluoro-6-trifluoromethylphenyl)-6-benzoyl-imidazo[1,2-a]pyridine 2-trifluoroacetamido-3-(2,3,4,5,6-pentafluorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine (1.80 g, 3.64 mmol) was converted to product in a manner substantially analogous to Example 67 to yield 1.28 g. (88.3%). EA, MS(FD).

reactant | 2-trifluoroacetamido-3-(2-fluoro-6-trifluoromethylphenyl)-6-benzoyl-imidazo[1,2-a]pyridine 2-trifluoroacetamido-3-(2,3,4,5,6-pentafluorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine | 3.64 mmol, 1.80 g | FC(C(=O)NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1C1=C(C(=C(C(=C1F)F)F)F)F)(F)F.FC(C(=O)NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1C1=C(C=CC=C1C(F)(F)F)F)(F)F
solvent | EA | CC(OCC)=O | C4H8O2
product | 2-Amino-3-(2-fluoro-6-trifluoromethylphenyl)-6-benzoyl-imidazo[1,2-a]pyridine | NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1C1=C(C=CC=C1C(F)(F)F)F | C21H13F4N3O
